Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / erythromycin base
 
Attending: ___.
 
Chief Complaint:
abnormal labs
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ female with a PMH of ___, 
HTN, chronic back pain ___ severe spinal stenosis, restless leg 
syndrome, GERD, DDD, and arthritis. The pt has progressive 
___ complicated by tremor, gait instability (walks with 
a walker), and labile BP. The pt's SBP ranges from ___ to 180s 
at home and is asymptomatic. She denies dizziness or syncope.

The pt reports that she has had ___ weeks of generally decreased 
appetite. She reports that "food is not as interesting" to her 
over the past month. She reports losing 12 lbs which was 
semi-intentional. She reports mild abd discomfort over the past 
10 days with occasional mild nausea and no vomiting. She denies 
diarrhea, blood in her stool or black stool.

Pt went to her PCP due to these symptoms. She reports that her 
PCP sent testing for H Pylori as well as routine serum tests. 
She was called a few hours later and told to go to the ER due to 
Hyponatremia. Pt reports that she has never been diagnosed with 
Hyponatremia before, but that her sodium has been borderline low 
and overall trending down for ___ years.

ROS: Pertinent positives and negatives as noted in the HPI. All 
other systems were reviewed and are negative. 
 
Past Medical History:
Parkinsons
Labile BP
Severe spinal stenosis with chronic back pain
Restless leg syndrome
GERD
DDD
Arthritis
 
Social History:
___
Family History:
Father had "heart problems". Mother died of colon cancer.
 
Physical Exam:
ADMISSION:
=========
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, no ___ edema
SKIN: No rashes or ulcerations noted
NEURO: Ox4, strength 4+/5 throughout. Severe arthritic
deformities of right hand. (+) mild tremor.
PSYCH: pleasant, appropriate affect

The patient was examined on the day of discharge. 
 
Pertinent Results:
ADMISSION/SIGNIFICANT LABS: 
========================
___ 08:40PM BLOOD WBC-7.0 RBC-3.41* Hgb-11.2 Hct-32.3* 
MCV-95 MCH-32.8* MCHC-34.7 RDW-13.1 RDWSD-45.1 Plt ___
___ 08:40PM BLOOD Glucose-115* UreaN-11 Creat-0.5 Na-122* 
K-4.1 Cl-87* HCO3-23 AnGap-12
___ 06:15AM BLOOD Cortsol-7.8
___ 05:20AM BLOOD TSH-1.9

IMAGING/OTHER STUDIES: 
===================
___ CXR
IMPRESSION: 
Large hiatal hernia.  No focal pulmonary lesions are 
demonstrated.

___ CT Head
IMPRESSION:
1. No acute intracranial findings.

LABS ON DISCHARGE: 
================
___ 09:00AM BLOOD Glucose-106* UreaN-10 Creat-0.5 Na-130* 
K-4.5 Cl-92* HCO3-27 AnGap-11
 
Brief Hospital Course:
Ms. ___ is a ___ female with a PMH of ___, 
labile BP, severe spinal stenosis with baseline chronic back 
pain, restless leg syndrome, GERD, and arthritis who presented 
to her PCP with poor appetite with weight loss. She was found to 
have acute on chronic hyponatremia.

# Hyponatremia (acute on chronic): 
Labs obtained by PCP for further evaluation of poor appetite and 
weight loss with a Na of 121 from 132 when last checked 
approximately one year prior. No change in mental status. 
Patient euvolemic on admission though had intermittent 
hypotension in the setting of severe labile BP due to her PD. 
Urine studies consistent with SIADH. She was treated with fluid 
restriction of 1500 mL per day, discontinuation of lisinopril, 
and initiation of 1g salt tabs BID. Na rose at a safe rate to 
130 on the time of discharge with plan for patient to obtain 
repeat labs at her PCP's office later this week prior to her 
follow up appointment this coming ___. 

#Labile BP: 
Wide swings in BP with systolics that can vary between lows of 
___ to highs of 200s, asymptomatic with lower BPs. On this 
admission, BPs chronically on the lower end with some SBP values 
in the ___. Lisinopril was discontinued with improvement. She 
will continue her home BB. Further monitoring and adjustment to 
regimen deferred to PCP at follow up. 

___: 
Symptoms are currently well controlled other than labile BP. She 
continued on her home regimen as detailed in the discharge 
medication list. 

#Restless leg syndrome: continued home parmipexole. 
#Spinal stenosis with chronic back pain: No acute issues on this 
hospitalization. 

TRANSITIONAL ISSUES: 
==================
[] f/u Na drawn this ___ (PCP ___
[] monitor BP trend off lisinopril 

> 30 mins spent coordinating discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. Propranolol LA 60 mg PO BID 
3. Rytary (carbidopa-levodopa) 23.75-95 mg oral 3 capsules at 8 
am, 2 capsules at 1 pm, 2 capsules at 6 pm, 2 capsules at 11 pm 
4. Lidocaine 5% Ointment 1 Appl TP BID 
5. Lodosyn (carbidopa) 25 mg oral QAM 
6. Rasagiline 1 mg PO NOON 
7. Pramipexole 1.5 mg PO QHS 
8. Pramipexole 0.375 mg PO QAM 
9. Carbidopa-Levodopa (___) 1 TAB PO QAM 

 
Discharge Medications:
1.  Sodium Chloride 1 gm PO BID 
RX *sodium chloride 1 gram 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0 
2.  Lidocaine 5% Ointment 1 Appl TP BID  
3.  Lodosyn (carbidopa) 25 mg oral QAM  
4.  Pramipexole 1.5 mg PO QHS  
5.  Pramipexole 0.375 mg PO QAM  
6.  Propranolol LA 60 mg PO BID  
7.  Rasagiline 1 mg PO NOON  
8.  Rytary (carbidopa-levodopa) 23.75-95 mg oral 3 capsules at 8 
am, 2 capsules at 1 pm, 2 capsules at 6 pm, 2 capsules at 11 pm  


 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# acute on chronic hyponatremia:
# ___ disease:
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege to care for you at the ___ 
___. You were admitted with abnormally low sodium. We 
believe that this is due to not getting enough salt in your diet 
and possibly and effect from your lisinopril. You will now be 
discharged on salt tabs to keep your sodium at a safe range. You 
will need blood drawn this ___ or ___, and will be 
called with what day Dr. ___. 

Please continue to take all medications as prescribed and follow 
up with all appointments as detailed below. 

We wish you the best!

Sincerely,
Your ___ Team 
 
Followup Instructions:
___